datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc2c(ccc[n+:21]2[H:20])c1.Cc1ccc([NH2:10])c(C)c1>>COc1ccc2c(ccc[n:21]2)c1.Cc1ccc([NH2+:10][H:20])c(C)c1 10=20;20,21=21",
"CC1CNCc2ccccc2OCCOc2ccccc2C[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1CNCc2ccccc2OCCOc2ccccc2C[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)Oc1cccc2ccc[n+:21]([H:20])c12.Cc1cc(C)[n-:10]n1>>CC(=O)Oc1cccc2ccc[n:21]c12.Cc1cc(C)[n:10]([H:20])n1 10=20;20,21=21",
"CC1(C)CCC(C(=O)[O-:10])=[N+]1[O-].CCc1cc(Cl)c([O:21][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC>>CC1(C)CCC(C(=O)[O:10][H:20])=[N+]1[O-].CCc1cc(Cl)c([O-:21])c(C(=O)NCC2CCC[NH+]2CC)c1OC 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.Cc1ccc(C[NH:10]C)cc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.Cc1ccc(C[NH+:10](C)[H:20])cc1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.NCC[NH:10]CCCO>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.NCC[NH+:10](CCCO)[H:20] 10=20;20,21=21",
"CC(C)(S)C(C(=O)[O-])n1cc[n:10]c1Cc1ccccc1.CC(O)C[N+:21](CCCN1CCOCC1)(CC(C)O)[H:20]>>CC(C)(S)C(C(=O)[O-])n1cc[n+:10]([H:20])c1Cc1ccccc1.CC(O)C[N:21](CCCN1CCOCC1)CC(C)O 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].O=C([O-])C(CO)[NH:10]Cc1cc([N+](=O)[O-])ccc1[O-]>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.O=C([O-])C(CO)[NH+:10](Cc1cc([N+](=O)[O-])ccc1[O-])[H:20] 10=20;20,21=21",
"C[N+:21](C)(CC(P(=O)([O-])[O-])P(=O)([O-])[O-])[H:20].Cc1ccc([O-:10])cc1[N+](C)(C)C>>C[N:21](C)CC(P(=O)([O-])[O-])P(=O)([O-])[O-].Cc1ccc([O:10][H:20])cc1[N+](C)(C)C 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC(=O)[O-:10].[NH3+]CC(=O)N1CCCC1C(=O)[O:21][H:20]>>CCCCCCCCCCCCCCCCCC(=O)[O:10][H:20].[NH3+]CC(=O)N1CCCC1C(=O)[O-:21] 10=20;20,21=21",
"Cc1nc(NCc2ccco2)c2cn[nH]c2[n+:21]1[H:20].ON/C=[N:10]\O>>Cc1nc(NCc2ccco2)c2cn[nH]c2[n:21]1.ON/C=[N+:10](\O)[H:20] 10=20;20,21=21",
"COc1c[n+:21]([H:20])ccc1C=O.C[N:10](C)CCCCC(=O)Oc1ccc([N+](=O)[O-])cc1>>COc1c[n:21]ccc1C=O.C[N+:10](C)(CCCCC(=O)Oc1ccc([N+](=O)[O-])cc1)[H:20] 10=20;20,21=21",
"C1=C(c2ccccc2)C2CC[N+:21]1([H:20])CC2.O=S(=O)(Cc1ccccc1)c1ncn[n-:10]1>>C1=C(c2ccccc2)C2CC[N:21]1CC2.O=S(=O)(Cc1ccccc1)c1ncn[n:10]1[H:20] 10=20;20,21=21",
"C(=N/[O:21][H:20])\c1ccco1.CC(C)[N:10]1CCCC1>>C(=N/[O-:21])\c1ccco1.CC(C)[N+:10]1([H:20])CCCC1 10=20;20,21=21",
"CC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.CCSC(C)[O-:10]>>CC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.CCSC(C)[O:10][H:20] 10=20;20,21=21",
"CCC(=O)C(CC[N:10](C)C)(c1ccccc1)c1ccccc1.C[NH+](C)Cc1cc(Br)ccc1[O:21][H:20]>>CCC(=O)C(CC[N+:10](C)(C)[H:20])(c1ccccc1)c1ccccc1.C[NH+](C)Cc1cc(Br)ccc1[O-:21] 10=20;20,21=21",
"CO/C([O-])=N/c1ncnc2nc[n:21]([H:20])c12.COc1cc(C#N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC>>CO/C([O-])=N/c1ncnc2nc[n-:21]c12.COc1cc(C#N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC 10=20;20,21=21",
"CC1=CC(=O)C(C(C)C)=C/C1=N/c1ccc([O-:10])cc1.COc1cc(S(C)=O)ccc1-c1nc2c[n+:21]([H:20])ncc2[nH]1>>CC1=CC(=O)C(C(C)C)=C/C1=N/c1ccc([O:10][H:20])cc1.COc1cc(S(C)=O)ccc1-c1nc2c[n:21]ncc2[nH]1 10=20;20,21=21",
"CCC1C[NH+:21]1[H:20].CC[N:10](CC)CCNc1cc(C)nc(N)n1>>CCC1C[NH:21]1.CC[N+:10](CC)(CCNc1cc(C)nc(N)n1)[H:20] 10=20;20,21=21",
"C=C(CCCC)C(=O)[O:21][H:20].c1ccc([NH:10]C2CCCCC2)cc1>>C=C(CCCC)C(=O)[O-:21].c1ccc([NH+:10](C2CCCCC2)[H:20])cc1 10=20;20,21=21",
"CCC(=O)C1(c2cccc(O)c2)CC[N:10](C)CC1.O=[N+]([O-])[N:21](c1nnn[nH]1)[H:20]>>CCC(=O)C1(c2cccc(O)c2)CC[N+:10](C)([H:20])CC1.O=[N+]([O-])[N-:21]c1nnn[nH]1 10=20;20,21=21",
"[NH3+]c1cccc(-c2sc3ccccc3[n+:21]2[H:20])c1.c1ccc(-c2nnn[n-:10]2)cc1>>[NH3+]c1cccc(-c2sc3ccccc3[n:21]2)c1.c1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"CC(C)S(=O)(=O)n1c(N)[n+:21]([H:20])c2ccc(C(=CC(N)=O)c3cc(F)ccc3F)cc21.N#Cc1cccc(C(=O)[O-:10])c1>>CC(C)S(=O)(=O)n1c(N)[n:21]c2ccc(C(=CC(N)=O)c3cc(F)ccc3F)cc21.N#Cc1cccc(C(=O)[O:10][H:20])c1 10=20;20,21=21",
"Cc1n[nH]c2c(N)nc[n:10]c12.NC(=O)C(CC(=O)[O:21][H:20])c1ccccc1>>Cc1n[nH]c2c(N)nc[n+:10]([H:20])c12.NC(=O)C(CC(=O)[O-:21])c1ccccc1 10=20;20,21=21",
"CCC1(CC)SC(=O)[N:21]([H:20])C1=O.Cc1cnc(-c2ccccc2)c([O-])[n:10]1>>CCC1(CC)SC(=O)[N-:21]C1=O.Cc1cnc(-c2ccccc2)c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"COCCC[NH2:10].Cc1cc(C(c2ccc(N)cc2)c2ccc(N)cc2)ccc1[NH2+:21][H:20]>>COCCC[NH2+:10][H:20].Cc1cc(C(c2ccc(N)cc2)c2ccc(N)cc2)ccc1[NH2:21] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])C1CC[NH:10]C1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=C([O-])C1CC[NH+:10]([H:20])C1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.c1csc(C2CCC[NH:10]2)c1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.c1csc(C2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"N[N:21](C(=O)C(F)(F)C1(F)OC(F)(F)C(F)(F)C1(F)F)[H:20].Nc1cc[n:10]nc1>>N[N-:21]C(=O)C(F)(F)C1(F)OC(F)(F)C(F)(F)C1(F)F.Nc1cc[n+:10]([H:20])nc1 10=20;20,21=21",
"CC(=O)N(N)C1CC[N:10](C)CC1.CC(=O)c1cc(C(C)=O)[n:21]([H:20])n1>>CC(=O)N(N)C1CC[N+:10](C)([H:20])CC1.CC(=O)c1cc(C(C)=O)[n-:21]n1 10=20;20,21=21",
